US07371773B2
Production of (Z)-3-(2,4-difluoro-phenyl)-2-(3,4-dimethoxy-phenyl)-acrylonitrile (Compound 23)
2,4-Difluorobenzaldehyde (142 mg) and 3,4-dimethoxybenzyl cyanide (177 mg) were subjected to condensation in accordance with process B of (production process 2), to thereby produce the target product (94 mg, yield: 31%).

reactant | 2,4-Difluorobenzaldehyde | 142 mg | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | 3,4-dimethoxybenzyl cyanide | 177 mg | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-3-(2,4-difluoro-phenyl)-2-(3,4-dimethoxy-phenyl)-acrylonitrile | 94 mg, yield: 31% | FC1=C(C=CC(=C1)F)\C=C(/C#N)\C1=CC(=C(C=C1)OC)OC | C17H13F2NO2
